US04258187
A solution of 12.3 g (0.05 mole) of 5-chloro-2-methylaminobenzophenone and 6 ml (0.1 mole) of methyl isocyanate in 50 ml of methylene chloride was refluxed for 3 days, and then cooled. The solid portion of the reaction mixture was collected on a filter and washed with methylene chloride to give 7.05 g (47%) of 6-chloro-3,4-dihydro-4-hydroxy-1,3-dimethyl-4-phenyl-2(1H)-quinazolinone as light yellow crystals; mp 174°-176°; 1H nmr (DMSO-d6) δ 2.67 ppm (s, 3H), 3.38 ppm (s, 3H), 6.8-7.7 ppm (m, 9H).

reactant | 5-chloro-2-methylaminobenzophenone | 0.05 mole, 12.3 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC | C14H12ClNO
reactant | methyl isocyanate | 0.1 mole, 6 ml | CN=C=O | C2H3NO
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-3,4-dihydro-4-hydroxy-1,3-dimethyl-4-phenyl-2(1H)-quinazolinone | 7.05 g, 47% | ClC=1C=C2C(N(C(N(C2=CC1)C)=O)C)(C1=CC=CC=C1)O | C16H15ClN2O2
